US05856311
A solution of 15.4 g of 3,3-dimethyl-4-phenylazetidin-2-one and 14.3 g of chlorotrimethylsilane in 150 cm3 of anhydrous methanol are refluxed for 6 hours. The solution is then evaporated and ethyl acetate and aqueous sodium bicarbonate at 5% are added. The organic phase is washed with water, is dried on sodium sulphate, and is then evaporated, obtaining 17.8 g of methyl 3-phenyl-3-amino-2,2-dimethylpropanoate (yield 98%).

reactant | 3,3-dimethyl-4-phenylazetidin-2-one | 15.4 g | CC1(C(NC1C1=CC=CC=C1)=O)C | C11H13NO
reactant | chlorotrimethylsilane | 14.3 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | methanol | 150 cm3 | CO | CH4O
product | methyl 3-phenyl-3-amino-2,2-dimethylpropanoate | 17.8 g, yield 98% | C1(=CC=CC=C1)C(C(C(=O)OC)(C)C)N | C12H17NO2
